US06914074B2
1,5-Dichloro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 1,5-dichloro-2-methoxy-6-(4-methoxyphenyl)naphthalene (0.15 g, 0.45 mmol) with boron tribromide (1.4 mL of 1N solution) according to method D to yield 0.10 g (73%) of a white solid: mp 204-206° C.;

reactant | 1,5-dichloro-2-methoxy-6-(4-methoxyphenyl)naphthalene | 0.45 mmol, 0.15 g | ClC1=C(C=CC2=C(C(=CC=C12)C1=CC=C(C=C1)OC)Cl)OC | C18H14Cl2O2
reactant | boron tribromide | 1N, 1.4 mL | B(Br)(Br)Br | BBr3
product | 1,5-Dichloro-6-(4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=C(C(=CC=C12)C1=CC=C(C=C1)O)Cl)O | C16H10Cl2O2
